US07192968B2
(1R*,2R*)-4-Methoxy-1,2-cyclopentanediamine hydrochloride (470 mg) was suspended in N,N-dimethylformamide (5 ml), and triethylamine (0.966 ml) and p-nitrophenyl 5-chloroindole-2-carboxylate (805 mg) were added to stir the mixture at room temperature for 4 days. The solvent was distilled off under reduced pressure, and a saturated aqueous solution of sodium hydrogencarbonate and dichloromethane were added to the residue to conduct liquid separation. The resultant organic layers was dried over anhydrous sodium sulfate. The solvent was distilled off under reduced pressure, and the residue was purified by column chromatography on silica gel (methanol:dichloromethane=1:9) to obtain (1R*,2R*)-4-methoxy-N1-[(5-chloroindol-2-yl)carbonyl]-1,2-cyclopentanediamine (mixture of stereoisomers at 4-position) (268 mg) as yellow powder.

reactant | (1R*,2R*)-4-Methoxy-1,2-cyclopentanediamine hydrochloride | 470 mg | Cl.COC1C[C@H]([C@@H](C1)N)N
reactant | triethylamine | 0.966 ml | C(C)N(CC)CC | C6H15N
reactant | p-nitrophenyl 5-chloroindole-2-carboxylate | 805 mg | ClC=1C=C2C=C(NC2=CC1)C(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C15H9ClN2O4
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | (1R*,2R*)-4-methoxy-N1-[(5-chloroindol-2-yl)carbonyl]-1,2-cyclopentanediamine | 268 mg | COC1C[C@H]([C@@H](C1)NC(=O)C=1NC2=CC=C(C=C2C1)Cl)N | C15H18ClN3O2
